US04166860
A. N-cyano-N'-[2-(5-methyl-4-imidazolyl)ethyl] guanidine
4.94 g. (0.249 mole) 5-methyl-4-(2-aminoethyl) imidazole dihydrochloride is converted to the free base with NaOH. The free base is combined with 4.36 g. (0.0249 mole) of O-m-tolyl-N-cyanoisourea in 63 ml. isopropanol. This mixture is refluxed for one hour. The mixture is then cooled to room temperature, filtered to remove insoluble material, and the solvent is evaporated to obtain a cloudy oil of the product mixed with m-cresol.

reactant | 5-methyl-4-(2-aminoethyl) imidazole dihydrochloride | 0.249 mole | Cl.Cl.CC1=C(N=CN1)CCN
reactant | NaOH | [OH-].[Na+]
reactant | O-m-tolyl-N-cyanoisourea | 0.0249 mole | C1(=CC(=CC=C1)OC(NC#N)=N)C | C9H9N3O
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-cyano-N'-[2-(5-methyl-4-imidazolyl)ethyl] guanidine | C(#N)NC(=N)NCCC=1N=CNC1C | C8H12N6
